US09085527B2
tert-Butyl 2-(2-(2-(2-hydroxybenzamido)ethyl)disulfanyl)ethylcarbamate (400 mg, 1.08 mmol) was taken up in 25% TFA in CH2Cl2 (10 mL) and allowed to stand at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure to afford a quantitative yield of N-(2-(2-(2-aminoethyl)-disulfanyl)-ethyl)-2-hydroxybenzamide as the TFA salt.

reactant | tert-Butyl 2-(2-(2-(2-hydroxybenzamido)ethyl)disulfanyl)ethylcarbamate | 1.08 mmol, 400 mg | OC1=C(C(=O)NCCSSCCNC(OC(C)(C)C)=O)C=CC=C1 | C16H24N2O4S2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(2-(2-aminoethyl)-disulfanyl)-ethyl)-2-hydroxybenzamide | quantitative yield | NCCSSCCNC(C1=C(C=CC=C1)O)=O | C11H16N2O2S2
